US09315467B2
Preparation of 3-[6-(4-Isopropyl-phenyl)-pyridin-2-yl]-benzoic acid (Compound 6)
Part C. A solution of ethyl 3-[6-(4-isopropyl-phenyl)-pyridin-2-yl]-benzoate (90 mg) in 3 mL methanol-1 mL water is treated with lithium hydroxide hydrate (50 mg). The solution is heated to between 40 and 50° C. for 12 h. with stirring, then cooled and neutralized to pH 7 with 3 N aq. HCl. The mixture is extracted with ethyl acetate, and the extract is washed with brine, dried over sodium sulfate, filtered and evaporated to afford the title product as a powder (70 mg, 85%), m.p. 215-216° C. NMR (300 MHz, CDCl3): δ 8.86 (1H, s), 8.47 (1H, d, J=8 Hz), 8.18 (1H, d, J=8 Hz), 8.08 (2H, d, J=9 Hz), 7.85 (1H, t, J=7 Hz), 7.77 (1H, d, J=7 Hz), 7.76 (1H, d, J=7 Hz), 7.62 (1H, t, J=8 Hz), 7.38 (2H, d, J=9 Hz), 2.99 (1H, heptet, J=7 Hz), 1.30 (6H, d, J=7 Hz). MS (ES+): m/e 319 (20), 318 (100).

reactant | ethyl 3-[6-(4-isopropyl-phenyl)-pyridin-2-yl]-benzoate | 90 mg | C(C)(C)C1=CC=C(C=C1)C1=CC=CC(=N1)C=1C=C(C(=O)OCC)C=CC1 | C23H23NO2
reactant | lithium hydroxide hydrate | 50 mg | O.[OH-].[Li+]
reactant | HCl | 3 N | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
product | 3-[6-(4-Isopropyl-phenyl)-pyridin-2-yl]-benzoic acid | 70 mg, 85% | C(C)(C)C1=CC=C(C=C1)C1=CC=CC(=N1)C=1C=C(C(=O)O)C=CC1 | C21H19NO2
